US04846883
Di-(β-naphthoxyethyl)succinate
50 g (0.5 mole) of succinic anhydride, 188 g (1 mole) of β-naphthoxy-ethanol and 10 drops of concentrated sulfuric acid are added to 300 ml of dry benzene. The reaction mixture is stirred and refluxed for 8 hours under a Marcusson water separator. The mixture is allowed to cool, the separated product is filtered off by suction, washed with water, then three times with an aqueous sodium carbonate solution, and finally with water again. The product is dried at room temperature. 171 g (74.7%) of the title compound are obtained.

reactant | succinic anhydride | 0.5 mole, 50 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | β-naphthoxy-ethanol | 1 mole, 188 g | C1(=CC=CC2=CC=CC=C12)OCCO | C12H12O2
reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Di-(β-naphthoxyethyl)succinate | 171 g, 74.7% | C1(=CC=CC2=CC=CC=C12)OCCOC(CCC(=O)OCCOC1=CC=CC2=CC=CC=C12)=O | C28H26O6
